US05770611
N-Methanesulphonyl-3(R,S)-methanesulphonyloxypyrrolidine
Methanesulphonyl chloride (1.95 ml, 25.3 mmol) was added dropwise to an ice-cooled, stirred solution of 3(R,S)-pyrrolidinol (1.0 g, 11.5 mmol), triethylamine (3.5 ml, 25.3 mmol) and 4-dimethylaminopyridine (70 mg, 0.575 mmol) in dichloromethane (10 ml) under nitrogen. The resulting slurry was stirred at room temperature for 24 hours, then diluted with dichloromethane (50 ml), washed successively with saturated aqueous sodium bicarbonate solution (50 ml) and water 50 ml), dried (Na2SO4) and filtered. Dilution of the filtrate with ethyl acetate provided the title compound (1.67 g) as a white crystalline solid. Rf 0.84 (SS 1). Found: C,29.89; H,5.12; N,5.74. C6H13NO5S2 requires C,29.62; H,5.39; N,5.76%.

reactant | Methanesulphonyl chloride | 25.3 mmol, 1.95 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3(R,S)-pyrrolidinol | 11.5 mmol, 1.0 g | N1CC(CC1)O | C4H9NO
reactant | triethylamine | 25.3 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.575 mmol, 70 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-Methanesulphonyl-3(R,S)-methanesulphonyloxypyrrolidine | 1.67 g | CS(=O)(=O)N1CC(CC1)OS(=O)(=O)C | C6H13NO5S2
